US07307075B2
1-[3-(4-Propoxypiperidin-1-yl)propyl]-1H-quinolin-2-one, (092LH69)
A 4 mL vial was charged with 1-(3-chloropropyl)-1H-quinolin-2-one (0.069 g, 0.31 mmol), K2CO3 (0.069 g, 0.50 mmol), KI (0.083 g, 0.50 mmol), 4-propoxypiperidine (0.050 g, 0.35 mmol) and dry CH3CN (2 mL). The mixture was shaken at 50° C. for 24 h and thereafter diluted with water (25 mL) and EtOAc (25 mL). The phases were separated and the water phase was extracted with EtOAc (2×50 mL). The combined organic phase was then dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by flash CC (SiO2; EtOAc/MeOH 4:1) followed by prep RP-HPLC to give the title compound (0.060 g, 59%). 1H NMR (CD3OD) δ 7.85 (d, J=9.4 Hz, 1H), 7.65 (brd, J=7.2 Hz, 1H), 7.63 (m, 2 H), 7.29-7.22 (m, 1H), 6.62, (d, J=9.4 Hz), 4.36-4.29 (m, 1H), 3.38 (t, J=6.6 Hz, 2H), 3.34-3.24 (m, 1H), 2.78-2.69 (m, 2H), 2.48-2.41 (m, 2H), 2.18-2.09 (m, 2H), 1.94-1.82 (m, 4 H), 1.59-1.47 (m, 4H), 0.90 (t, J=7.4 Hz); 13C NMR (CD3OD) δ 162.0, 140.3, 139.0, 131.1, 129.2, 122.6, 121.4, 120.3, 114.7, 74.7, 69.5, 55.4, 51.0, 40.6, 31.0, 24.9, 32.1, 9.9; HPLC-MS (ammonium acetate) [M+H]+=329.3.

reactant | 1-(3-chloropropyl)-1H-quinolin-2-one | 0.31 mmol, 0.069 g | ClCCCN1C(C=CC2=CC=CC=C12)=O | C12H12ClNO
reactant | K2CO3 | 0.50 mmol, 0.069 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-propoxypiperidine | 0.35 mmol, 0.050 g | C(CC)OC1CCNCC1 | C8H17NO
reactant | CH3CN | 2 mL | CC#N | C2H3N
solvent | water | 25 mL | O | H2O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 1-[3-(4-Propoxypiperidin-1-yl)propyl]-1H-quinolin-2-one | 0.060 g, 59% | C(CC)OC1CCN(CC1)CCCN1C(C=CC2=CC=CC=C12)=O | C20H28N2O2
